US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-N-(3,4-dihydro-2H-thiochromen-4-yl)-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 5-bromo-N-(3,4-dihydro-2H-thiochromen-4-yl)-3,6-diethylpyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ 7.51, 7.36, 7.32, 7.29, 7.20, 7.07, 5.49, 4.64, 3.23, 3.02, 2.72, 2.64, 2.53, 2.20, 1.27, 1.22; 13C NMR (100 MHz, CDCl3) δ 151.42, 150.26, 140.63, 137.74, 137.67, 135.29, 134.57, 134.22, 132.88, 131.23, 129.81, 129.11, 128.53, 127.52, 127.28, 124.87, 48.48, 27.58, 26.34, 23.18, 23.11, 13.30, 11.64; HRMS (FAB) calcd for C23H23Cl2N3S+H 444.1068, found 444.1055.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 5-bromo-N-(3,4-dihydro-2H-thiochromen-4-yl)-3,6-diethylpyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCSC2=CC=CC=C12)CC | C17H20BrN3S
product | 5-(2,4-dichlorophenyl)-N-(3,4-dihydro-2H-thiochromen-4-yl)-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)NC1CCSC2=CC=CC=C12)CC | C23H23Cl2N3S
